US07943639B2
4-Piperazin-1-yl-thieno[3,2-c]pyridine-2-sulfonic acid (4-isopropyl-phenyl)-amide hydrochloride
4-Chloro-thieno[3,2-c]pyridine-2-sulfonic acid (4-isopropyl-phenyl)-amide (0.201 mmol, 1 equiv.) was used as the thienopyridine in Method H-L. Yield: 6.9 mg HPLC: tR=3.255 (System: 5% to 50% ACN in 3 min, C8), Purity: 95%, LC/MS: tR=1.255 (System: 30% to 60% ACN in 1.5 min, Hypersil BDS), Purity: 98%. MS: 417 (M+1). 1H NMR (270 MHz, CH3OH-d4) δ ppm 1.18 (d, J=6.86 Hz, 6H) 2.83 (m, 2H) 3.52 (m, 4H) 4.00 (m, 4H) 7.14 (m, 3H) 7.75 (d, J=6.60 Hz, 1H) 8.02 (m, 1H).

reactant | 4-Chloro-thieno[3,2-c]pyridine-2-sulfonic acid (4-isopropyl-phenyl)-amide | 0.201 mmol, 1 equiv. | C(C)(C)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C(=NC=CC2S1)Cl | C16H15ClN2O2S2
reactant | thienopyridine | S1C=CC2=C1C=CC=N2 | C7H5NS
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | ACN | C(C)#N | C2H3N
product | 4-Piperazin-1-yl-thieno[3,2-c]pyridine-2-sulfonic acid (4-isopropyl-phenyl)-amide hydrochloride | Cl.C(C)(C)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C(=NC=CC2S1)N1CCNCC1 | InChI=1S/C20H24N4O2S2.ClH/c1-14(2)15-3-5-16(6-4-15)23-28(25,26)19-13-17-18(27-19)7-8-22-20(17)24-11-9-21-10-12-24;/h3-8,13-14,21,23H,9-12H2,1-2H3;1H
